US08039472B2
A stirred suspension of S-methyl-iso-thiourea sulphate (10 g, 35.9 mmol) in toluene (75 ml) is treated with 4 M NaOH (15 ml) at room temperature. To the two-phase mixture is added di-tert butyl dicarbonate (3.27 g, 15 mmol) in one portion. The reaction mixture is stirred at room temperature for 1 hour, then heated to 60° C. overnight. The organic portion is separated, washed with brine solution, then dried over Na2SO4, filtered and concentrated in vacuo to a viscous oil, which crystallised under high vacuum to afford tert-Butyl amino(methylthio)methylenecarbamate as a colourless solid.

reactant | S-methyl-iso-thiourea sulphate | 35.9 mmol, 10 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | NaOH | 4 M, 15 ml | [OH-].[Na+]
reactant | di-tert butyl dicarbonate | 15 mmol, 3.27 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl amino(methylthio)methylenecarbamate | NC(SC)=NC(OC(C)(C)C)=O | C7H14N2O2S
